US05270322
b) 2-Ethyl-5-[(2'-carboxybiphenyl-4-yl)carbonyl]imidazo[1,2-a]pyridine
Prepared analogously to Example 1c from 2-ethyl-5-[(2'-(tert.butyloxycarbonyl)biphenyl-4-yl)carbonyl]-imidazo[1,2-a]pyridine and trifluoroacetic acid.

reactant | 2-ethyl-5-[(2'-(tert.butyloxycarbonyl)biphenyl-4-yl)carbonyl]-imidazo[1,2-a]pyridine | C(C)C=1N=C2N(C(=CC=C2)C(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)C(=O)OC(C)(C)C)C1 | C27H26N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Ethyl-5-[(2'-carboxybiphenyl-4-yl)carbonyl]imidazo[1,2-a]pyridine | C(C)C=1N=C2N(C(=CC=C2)C(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)C(=O)O)C1 | C23H18N2O3
